US05728686
e) 3-Cyclopropyl-7-propylxanthine
9.6 g (0.05 mol) of 3-cyclopropylxanthine were suspended in 150 ml of dimethylformamide and slowly deprotonated using 1.45 g (0.06 mol) of sodium hydride. When evolution of hydrogen was at an end, the solution was heated to 60° C. and treated dropwise with 6.77 g (0.055 mol) of bromopropane. After stirring at 70° C. for 3 hours, the solution was filtered, the dimethylformamide was evaporated under reduced pressure and the residue was crystallized from diisopropyl ether.

reactant | 3-cyclopropylxanthine | 0.05 mol, 9.6 g | C1(CC1)N1C(NC(C=2NC=NC12)=O)=O | C8H8N4O2
reactant | sodium hydride | 0.06 mol, 1.45 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | bromopropane | 0.055 mol, 6.77 g | BrCCC | C3H7Br
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-Cyclopropyl-7-propylxanthine | C1(CC1)N1C(NC(C=2N(C=NC12)CCC)=O)=O | C11H14N4O2
